US06727264B1
2-METHYL-N-[3-(1-{3-[(2-TOLUIDINOCARBOTHIOYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure P and Scheme AB using 1-isothiocyanato-2-methylbenzene and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 453.2 (M+H)+.

reactant | 1-isothiocyanato-2-methylbenzene | N(=C=S)C1=C(C=CC=C1)C | C8H7NS
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | 2-METHYL-N-[3-(1-{3-[(2-TOLUIDINOCARBOTHIOYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCNC(=S)NC=1C(=CC=CC1)C)C | C26H36N4OS
